* TB12: Monte Carlo — component tolerances vs the pass limits.
* 60 trials: R7/R8 (FB divider, 1%), R1/R2/R5 (coin path, 1%) uniform scatter;
* opto CTR uniform across the FOD817's wide bin (0.5..2.0).
* Each trial prints "MC <v5> <g4low>"; run_all.sh aggregates: every trial must
* have 4.85 <= v5 <= 5.15 and g4low <= 0.8 (clean coin logic low).
.param LAMPR=144
.include models.inc
.include board.inc
VADAPT VJACK 0 12
VG14 g14d 0 3.3
RG14 g14d GPIO14 15
VCOIN COINCTL 0 PULSE(0 1 5m 1u 1u 20m 1)
VSOL SOLCTL 0 0
.control
repeat 60
  let ctr_draw = 2.0 + 1.0*sunif(0)
  alterparam fod817_ctr = $&ctr_draw
  reset
  let r7v = 100k*(1 + 0.01*sunif(0))
  let r8v = 19.1k*(1 + 0.01*sunif(0))
  let r1v = 2.2k*(1 + 0.01*sunif(0))
  let r2v = 220*(1 + 0.01*sunif(0))
  let r5v = 1k*(1 + 0.01*sunif(0))
  alter r7 = $&r7v
  alter r8 = $&r8v
  alter r1 = $&r1v
  alter r2 = $&r2v
  alter r5 = $&r5v
  tran 20u 30m
  meas tran v5f FIND v(P5V) AT=4.5m
  meas tran g4l MIN v(GPIO4) from=7m to=24m
  echo MC $&v5f $&g4l
  destroy all
end
.endc
.end
